US09238656B2
Synthesis of (4S)-4-(6-chloro-2-(1-methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino)-1,7,7-trimethylbicyclo[2.2.1]heptan-2-ol (Compound CCII)
To a suspension of 4-(6-chloro-2-(1-methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino)-1,7,7-trimethylbicyclo[2.2.1]heptan-2-one (Compound CXCIX) (90 mg, 0.228 mmol) in ethanol NaBH4 (85 mg, 2.26 mmol) was added and the reaction mixture was heated at 60° C. for 16 h when LCMS confirmed consumption of staring material and formation of desired product. The reaction mixture was allowed to come to rt and acidified to pH 5. Solvent was then removed and the residue was suspended in water and filtered. The residue was triturated with ether to afford the desired product (42 mg, 46%) as a white solid. NMR: δ (1H, 400M Hz, DMSO-d6): 0.88 (3H, s), 0.91 (3H, s), 1.09 (3H, s), 1.10-1.60 (4H, m), 2.75-2.90 (1H, m), 3.60-3.75 (1H, m), 3.94 (3H, s), 4.77 (1H, d, J=4.4 Hz), 5.21 (1H, s), 7.95 (1H, s), 8.03 (1H, s), 8.28 (1H, s), 12.99 (1H, s). LCMS (254 nm): [M+H]+ 401.05 (96.59%). HPLC: 93.58% (220 nm)

reactant | 4-(6-chloro-2-(1-methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino)-1,7,7-trimethylbicyclo[2.2.1]heptan-2-one | 0.228 mmol, 90 mg | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C)NC21CC(C(CC2)(C1(C)C)C)=O | C20H23ClN6O
reactant | ethanol NaBH4 | 2.26 mmol, 85 mg | C(C)O.[BH4-].[Na+]
product | (4S)-4-(6-chloro-2-(1-methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino)-1,7,7-trimethylbicyclo[2.2.1]heptan-2-ol | 42 mg, 46% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C)N[C@]21CC(C(CC2)(C1(C)C)C)O | C20H25ClN6O
